US07276603B2
A mixture of 5-methoxy-benzofuran-3 (2H)-one (1.64 g, 10 mmol) and 1-triphenylphosphoranylidene-2-propanone (4.77 g, 15 mmol) was refluxed in toluene (100 ml) for 48 hrs. At the end, reaction mixture was concentrated and loaded over silica-gel column. The column was eluted with hexane (500 ml) and later with 25% ethyl acetate. The product, 1-(5-methoxy-1-benzofuran-3-yl)acetone, was obtained as a red oil. Yield: 1.1 g (53%); (M+H): 205.

reactant | 5-methoxy-benzofuran-3 (2H)-one | 10 mmol, 1.64 g | COC=1C=CC2=C(C(CO2)=O)C1 | C9H8O3
reactant | 1-triphenylphosphoranylidene-2-propanone | 15 mmol, 4.77 g | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(5-methoxy-1-benzofuran-3-yl)acetone | COC=1C=CC2=C(C(=CO2)CC(=O)C)C1 | C12H12O3
